US08629144B2
Step 1: 6-iodoquinoline
6-bromoquinoline (80.1 g, 0.385 mol) is dissolved in n-butanol (0.8 L). Copper catalyst CuI (3.7 g, 0.019 mol), a copper-ligand N,N′-dimethylethylenediamine (3.4 g, 0.0385 mol) and an iodide source NaI (115.5 g, 0.770 mol) are added and the mixture is heated in a heating jacket, under inert atmosphere to 120° C. After work-up (0.8 L water is added to the reaction mixture, the organic layer is separated off and evaporated) and purification (the crude evaporation residue was crystallized from 150 mL diisopropylether), 6-iodoquinoline was obtained in 80% yield.

reactant | 6-bromoquinoline | 0.385 mol, 80.1 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
reactant | iodide | [I-]
reactant | NaI | 0.770 mol, 115.5 g | [Na+].[I-]
reactant | water | 0.8 L | O | H2O
solvent | n-butanol | 0.8 L | C(CCC)O | C4H10O
catalyst | Copper | 0.019 mol, 3.7 g | [Cu] | Cu
catalyst | copper | 0.0385 mol, 3.4 g | [Cu] | Cu
product | 6-iodoquinoline | 80% yield | IC=1C=C2C=CC=NC2=CC1 | C9H6IN
